US07772183B2
Prepared by way of method I using 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-12-oxatricyclo[14.3.0.04,6]-nonadec-7-ene (100 mg, 0.175 mmol) and benzoyl chloride (61 μL, 0.53 mmol). The final trituration (diethyl ether/hexane) and filtration gave 56 mg (48%) of 18-benzoyloxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-12-oxatricyclo-[14.3.0.04,6]-nonadec-7-ene as a white powder: 99.0% pure (HPLC), MS m/z 673 (M−H)−, HRMS: calcd. 675.2700 and found 675.2709 (M+H)+, mp 135-137° C.

reactant | 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-12-oxatricyclo[14.3.0.04,6]-nonadec-7-ene | 0.175 mmol, 100 mg | OC1CN2C(C(COCCCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C25H38N4O9S
reactant | benzoyl chloride | 0.53 mmol, 61 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 18-benzoyloxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-12-oxatricyclo-[14.3.0.04,6]-nonadec-7-ene | 56 mg, 48% | C(C1=CC=CC=C1)(=O)OC1CN2C(C(COCCCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C32H42N4O10S
